US04748165
A solution of 5-(4-guanidino-1,2,3-triazol-2-yl)valeronitrile (0.41 g.) in chloroform (15 ml.) and MeOH (4 ml.) was saturated at 0° with gaseous hydrogen chloride and the solution kept at 0° for 3 days. Lvaporation gave methyl 5-(4-guanidino-1,2,3-triazol-2-yl)valerimidate hydrochloride which was used without further purification.

reactant | 5-(4-guanidino-1,2,3-triazol-2-yl)valeronitrile | 0.41 g | N(C(=N)N)C1=NN(N=C1)CCCCC#N | C8H13N7
reactant | hydrogen chloride | Cl | ClH
reactant | MeOH | 4 ml | CO | CH4O
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-(4-guanidino-1,2,3-triazol-2-yl)valerimidate hydrochloride | Cl.N(C(=N)N)C1=NN(N=C1)CCCCC(OC)=N | InChI=1S/C9H17N7O.ClH/c1-17-7(10)4-2-3-5-16-13-6-8(15-16)14-9(11)12;/h6,10H,2-5H2,1H3,(H4,11,12,14,15);1H
